US05567350
Preparation of trans, trans-4-(4-methoxycyclohexyl)-1-n-propyl-1-silacyclohexane
100 ml of a tetrahydrofuran solution of 1.0M n-propyl magnesium chloride was dripped into a mixture of 23.0 g (93.2 mmol) of 1-chloro-4-(trans-4-methoxycyclohexyl)-1-silacyclohexane and 100 ml of tetrahydrofuran. After a conventional after treatment, the product thus obtained was purified by means of silica-gel column chromatography to obtain 17.1 g (yield 72%) of the trans, trans isomer.

reactant | n-propyl magnesium chloride | 1.0M | C(CC)[Mg]Cl
reactant | 1-chloro-4-(trans-4-methoxycyclohexyl)-1-silacyclohexane | 93.2 mmol, 23.0 g | Cl[SiH]1CCC(CC1)[C@@H]1CC[C@H](CC1)OC | C12H23ClOSi
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | trans-4-(4-methoxycyclohexyl)-1-n-propyl-1-silacyclohexane | yield 72% | COC1CCC(CC1)[C@@H]1CC[Si@H](CC1)CCC | C15H30OSi
